US05580872
8-(4-(2-pyridyl)-1-piperazinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid
A 60 mg sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester, from Example 253i above, was dissolved in 2 mL of anhydrous acetonitrile, reacted with 4-(2-pyridyl)piperazine (63.5 mg, 0.39 mmol, Aldrich Chem. Co.), and carried forward as described in Example 253j-k to give the title product. MS 423 (M+H)+ ; 1H NMR (CDCl3) δ: 0.71 (m, 2H), 1.05 (m, 2H), 2.30 (m, 1H), 2.86 (s, 3H), 3.59 (m, 4H), 3.78 (m, 4H), 6.76 (m, 2H), 7.57 (m, 1H), 8.25 (m, 1H), 8.40 (s, 1H), 8.25 (d, 1H), 13.83 (bs, 1H). Anal. Calcd for C23H23N4O3F.1.5H2O: C, 61.46; H, 5.83; N, 12.46; Found: C, 61.76; H, 5.54; N, 11.64.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | 4-(2-pyridyl)piperazine | 0.39 mmol, 63.5 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 8-(4-(2-pyridyl)-1-piperazinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid | N1=C(C=CC=C1)N1CCN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C23H23FN4O3
